US06982348B2
8) N-{(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)propan-1-ol (250 mg, 0.67 mmol) in acetonitrile (20 ml) were added 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid (125 mg, 0.67 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (191 mg, 1.00 mmol) and 1-hydroxybenzotriazole hydrate (102 mg, 0.67 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave the objective substance (257 mg, 69%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)propan-1-ol | 0.67 mmol, 250 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C17H14F5NO3
reactant | 6,7-dihydro-5H-benzo[a]cycloheptene-1-carboxylic acid | 0.67 mmol, 125 mg | C=1(C=CC=C2C1C=CCCC2)C(=O)O | C12H12O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.00 mmol, 191 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.67 mmol, 102 mg | O.ON1N=NC2=C1C=CC=C2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | N-{(1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-[(2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | FC1=CC=C(C=C1)C(C(CC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1)NC(=O)C=1C=CC=C2C1C=CCCC2)O | C29H24F5NO4
